US05665730
17. 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine
The title compound is prepared according to the procedure described for example 2 starting from 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine (0.15 g) and sodium borohydride (15 mg) in methanol. 0.12 g of the title compound of m.p. 102°-104° C. are isolated.

reactant | 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine | 0.15 g | C(C)(C)(C)OC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C22H26N4O3
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 8-(2-tert-Butoxycarbonylamino-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | 0.12 g | C(C)(C)(C)OC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC=C1)C | C22H28N4O3
